US08476267B2
Diethyl 1-[2-(2,4-dichlorophenyl)-2-oxoethyl]-1H-pyrazole-3,5-dicarboxylate
5 g (23.6 mmol) of diethyl 1H-pyrazole-3,5-dicarboxylate were dissolved in 100 ml of acetone, and 6.3 g (23.6 mmol) of 2-bromo-2,4-dichloroacetophenone and 3.6 g (26 mmol) of potassium carbonate were added. The mixture was stirred at RT for 12 h. The reaction mixture was concentrated and the residue was taken up in water and dichloromethane. The organic phase was washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate and concentrated on a rotary evaporator. The residue was triturated with diethyl ether, and the solid was filtered off with suction. This gave 9.48 g (94% of theory) of the product as a solid.

reactant | diethyl 1H-pyrazole-3,5-dicarboxylate | 23.6 mmol, 5 g | N1N=C(C=C1C(=O)OCC)C(=O)OCC | C9H12N2O4
reactant | 2-bromo-2,4-dichloroacetophenone | 23.6 mmol, 6.3 g | C1=CC(=C(C=C1Cl)Cl)C(=O)CBr | C8H5BrCl2O
reactant | potassium carbonate | 26 mmol, 3.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | Diethyl 1-[2-(2,4-dichlorophenyl)-2-oxoethyl]-1H-pyrazole-3,5-dicarboxylate | ClC1=C(C=CC(=C1)Cl)C(CN1N=C(C=C1C(=O)OCC)C(=O)OCC)=O | C17H16Cl2N2O5
